US09447046B2
Preparation 68a: 6-[(3-methylphenyl)sulfanyl]-1,2,3,4-tetrahydronaphthalen-1-one
The suspension of 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (1.8 g, 6.1 mmol), 3-methylbenzene-1-thiol (0.76 g, 6.1 mmol), Pd2(dba)3 (142 mg, 0.153 mmol), Xantphos (177 mg, 0.306 mmol) and DIEA (1.58 g, 12.2 mmol) in 1,4-dioxane (60 mL) was stirred at reflux overnight under N2. The reaction was filtered and concentrated. Purification by silica gel chromatography (PE:EtOAc=5:1) gave 1.8 g (100%) of the title compound as an orange oil. [M+H] Calc'd for C17H16OS, 269. Found, 269.

reactant | 5-oxo-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 6.1 mmol, 1.8 g | FC(S(=O)(=O)OC1=CC=2CCCC(C2C=C1)=O)(F)F | C11H9F3O4S
reactant | 3-methylbenzene-1-thiol | 6.1 mmol, 0.76 g | CC=1C=C(C=CC1)S | C7H8S
reactant | DIEA | 12.2 mmol, 1.58 g | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.153 mmol, 142 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.306 mmol, 177 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 6-[(3-methylphenyl)sulfanyl]-1,2,3,4-tetrahydronaphthalen-1-one | 1.8 g, 100% | CC=1C=C(C=CC1)SC=1C=C2CCCC(C2=CC1)=O | C17H16OS
